US08314100B2
1-[(6-Chloro-3-methoxyquinoxalin-2-yl)aminocarbonyl]-4-(2-chlorophenyl)piperazine (Compound 119)
Ethyl N-(6-chloro-3-methoxyquinoxalin-2-yl)carbamate and 1-(2-chlorophenyl)piperazine were reacted by the same way with the example 106 to obtain the titled compound (yield, 91%). 1H NMR (300 MHz, CDCl3): δ 3.15 (s, 4H), 3.79 (s, 4H), 4.15 (s, 3H), 6.99-7.06 (m, 2H), 7.23-7.45 (m, 4H), 7.74-7.79 (m, 2H).

reactant | Ethyl N-(6-chloro-3-methoxyquinoxalin-2-yl)carbamate | ClC=1C=C2N=C(C(=NC2=CC1)NC(OCC)=O)OC | C12H12ClN3O3
reactant | 1-(2-chlorophenyl)piperazine | ClC1=C(C=CC=C1)N1CCNCC1 | C10H13ClN2
product | 1-[(6-Chloro-3-methoxyquinoxalin-2-yl)aminocarbonyl]-4-(2-chlorophenyl)piperazine | 91% | ClC=1C=C2N=C(C(=NC2=CC1)NC(=O)N1CCN(CC1)C1=C(C=CC=C1)Cl)OC | C20H19Cl2N5O2
